US05371101
1-(2,2-Diethoxyethyl)-3-(4-trifluoromethylphenyl)urea (9.2 g, 28.7 mmol) was dissolved in a mixture of 113 ml of methanol and 57 ml of water. To the reaction solution was added 67.5 ml of 0.48N hydrochloric acid and the mixture was stirred for 48 hours at room temperature. To the reaction solution was added 1N sodium hydroxide to adjust pH to 7, followed by being concentrated under reduced pressure. The residue was extracted with ethyl acetate (100 ml×4). The extracts were combined, washed with water and saturated aqueous solution of sodium chloride successively, dried over magnesium sulfate and distilled off. The crystals thus separated out were recystallized from ethyl acetate-isopropylether to give 4.87 g of 1-(4-trifluoromethylphenyl)-2(1H,3H)-imidazolone (74%) as colorless prisms.

reactant | 1-(2,2-Diethoxyethyl)-3-(4-trifluoromethylphenyl)urea | 28.7 mmol, 9.2 g | C(C)OC(CNC(=O)NC1=CC=C(C=C1)C(F)(F)F)OCC | C14H19F3N2O3
reactant | hydrochloric acid | 0.48N, 67.5 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 113 ml | CO | CH4O
solvent | water | 57 ml | O | H2O
product | 1-(4-trifluoromethylphenyl)-2(1H,3H)-imidazolone | 4.87 g, 74% | FC(C1=CC=C(C=C1)N1C(NC=C1)=O)(F)F | C10H7F3N2O
